US08981085B2
A mixture of diethyl trans-4-methylpiperidin-3-ylphosphoramidate (0.63 g, 2.52 mmol), benzaldehyde (0.38 mL, 3.78 mmol) and acetic acid (0.29 mL, 5.03 mmol) in methanol (20 mL) was stirred at 0° C. for 30 minutes. NaCNBH3 (0.24 g, 3.78 mmol) was added at 0° C. The resulting solution was warmed to room temperature and stirred at room temperature for 1 hour. The solvent was removed in vacuo, and saturated sodium bicarbonate (20 mL) and ethyl acetate (30 mL) were added. The organic layer was separated, washed with brine, dried (sodium sulfate) and concentrated in vacuo to give diethyl trans-1-benzyl-4-methylpiperidin-3-ylphosphoramidate (0.85 g, 99%), which was used directly in the next step without purification.

reactant | diethyl trans-4-methylpiperidin-3-ylphosphoramidate | 2.52 mmol, 0.63 g | C[C@H]1[C@@H](CNCC1)NP(OCC)(OCC)=O | C10H23N2O3P
reactant | benzaldehyde | 3.78 mmol, 0.38 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 5.03 mmol, 0.29 mL | C(C)(=O)O | C2H4O2
reactant | NaCNBH3 | 3.78 mmol, 0.24 g | [BH3-]C#N.[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | diethyl trans-1-benzyl-4-methylpiperidin-3-ylphosphoramidate | 0.85 g, 99% | C(C1=CC=CC=C1)N1C[C@H]([C@@H](CC1)C)NP(OCC)(OCC)=O | C17H29N2O3P
